US07241893B2
A mixture of 6-iodo-quinolin-2-ylamine (200 mg, 0.74 mmol), triethylamine (0.26 mL, 1.85 mmol), diphenylpropylphosphine (dpp, 17 uL, 0.074 mmol) and palladium(II) acetate (17 mg, 0.074 mmol) in dry N,N-dimethylformamide (4 mL) in pressure tube was stirred under carbon monoxide at 75 psi at room temperature for 10 min. After addition of trihexylsilane (0.53 mL, 1.5 mmol), the mixture was then stirred under carbon monoxide at 75 psi at 80° C. for 4 h. The reaction was allowed to cool to 25[ ]C and then extracted with methylene chloride (2×50 mL). The combined organic layers were successively washed with water (3×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70–230 mesh, ethyl acetate) afforded 2-amino-quinoline-6-carbaldehyde (30 mg, 24%) as a solid.

reactant | 6-iodo-quinolin-2-ylamine | 0.74 mmol, 200 mg | IC=1C=C2C=CC(=NC2=CC1)N | C9H7IN2
reactant | triethylamine | 1.85 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylpropylphosphine | 0.074 mmol, 17 uL | C1(=CC=CC=C1)C(CCP)C1=CC=CC=C1 | C15H17P
reactant | trihexylsilane | 1.5 mmol, 0.53 mL | C(CCCCC)[SiH](CCCCCC)CCCCCC | C18H40Si
reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.074 mmol, 17 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-amino-quinoline-6-carbaldehyde | 30 mg, 24% | NC1=NC2=CC=C(C=C2C=C1)C=O | C10H8N2O
